US05387596
6-Benzyloxy-2-[(4-formylphenyl)oxymethyl]-2,5,7,8-tetramethylchroman
A mixture of 1.63 g of sodium hydride (as a 55% w/w dispersion in mineral oil) and 20 ml of dimethylformamide was cooled in an atmosphere of nitrogen; to the cooled solution were then added dropwise a mixture of 4.58 g of p-hydroxybenzaldehyde and 30 ml of dimethylformamide, whilst ice-cooling. 10.9 g of 6-benzyloxy-2-iodomethyl-2,5,7,8-tetramethylchroman (prepared as described in Preparation 2) and 50 ml of dimethylformamide were then added to the resulting solution, and the resulting mixture was heated under reflux for 5.5 hours. At the end of this time, the reaction mixture was extracted twice, each time with 100 ml of ethyl acetate. The combined extracts were washed with water, and the solvent was then removed from the extract by distillation under reduced pressure to afford 10.5 g of the title compound as an oil. Nuclear Magnetic Resonance Spectrum (CDCl3, 60 MHz), δ ppm: 1.43 (3H, singlet); 1.63-2.27 (2H, multiplet); 2.03 (3H, singlet); 2.13 (3H, singlet); 2.20 (3H, singlet); 2.43-2.90 (2H, multiplet); 4.00 (2H, singlet); 4.63 (2H, singlet); 6.97 (2H, doublet, J=9 Hz); 7.10-7.60 (5H, multiplet); 7.77 (2H, doublet, J=9 Hz); 9.77 (1H, singlet).

reactant | sodium hydride | 1.63 g | [H-].[Na+]
reactant | p-hydroxybenzaldehyde | 4.58 g | OC1=CC=C(C=O)C=C1 | C7H6O2
reactant | 6-benzyloxy-2-iodomethyl-2,5,7,8-tetramethylchroman | 10.9 g | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(C)CI)C | C21H25IO2
solvent | dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 30 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | 6-Benzyloxy-2-[(4-formylphenyl)oxymethyl]-2,5,7,8-tetramethylchroman | 10.5 g | C(C1=CC=CC=C1)OC=1C(=C2CCC(OC2=C(C1C)C)(C)COC1=CC=C(C=C1)C=O)C | C28H30O4
